US07186749B2
Step 2: 6-{5-Phenyl-1-[4-(trifluoromethyl)benzyl]-1H-pyrrol-2-yl}-2-naphthol.
In a similar manner as described in step 5 of Example 1, the title compound was prepared from 2-(6-methoxy-2-naphthyl)-5-phenyl-1-[4-(trifluoromethyl)benzyl]-1H-pyrrole (0.70 g, 1.5 mmol), prepared in the previous step, and pyridine hydrochloride (7 g) heated to 165° C. under nitrogen for 12 hours. Purification on a Biotage Horizon™ system with a KP-Sil Flash 40+M column (100 g Silica Gel, 60 Å) using 50% to 90% methylene chloride in hexane as the eluent gave 6-{5-phenyl-1-[4-(trifluoromethyl)benzyl]-1H-pyrrol-2-yl}-2-naphthol as a reddish-brown amorphous solid (0.52 g, 77%), mp 63–66° C. Elemental Analysis for C28H20F3NO Calc'd: C, 75.84; H, 4.55; N, 3.16. Found: C, 75.18; H, 4.41; N, 3.13.

reactant | 2-(6-methoxy-2-naphthyl)-5-phenyl-1-[4-(trifluoromethyl)benzyl]-1H-pyrrole | 1.5 mmol, 0.70 g | COC=1C=C2C=CC(=CC2=CC1)C=1N(C(=CC1)C1=CC=CC=C1)CC1=CC=C(C=C1)C(F)(F)F | C29H22F3NO
reactant | pyridine hydrochloride | 7 g | Cl.N1=CC=CC=C1
product | 6-{5-phenyl-1-[4-(trifluoromethyl)benzyl]-1H-pyrrol-2-yl}-2-naphthol | 0.52 g, 77% | C1(=CC=CC=C1)C1=CC=C(N1CC1=CC=C(C=C1)C(F)(F)F)C=1C=C2C=CC(=CC2=CC1)O | C28H20F3NO
